US08168638B2
Production of N-(4′-trifluoromethoxybiphenyl-2-yl)-3-methyl-pyrazine-2-carboxamide (Compound No. 2-14)
A solution of sodium carbonate (0.31 g: 1.5 mmole) in 5 mL of water was added to a solution of N-(2-bromophenyl)-3-methylpyrazine-2-carboxamide (0.4 g: 1.4 mmole) and 4-trifluoromethoxyphenyl boric acid (0.31 g: 1.5 mmole) in 10 mL of toluene, followed by addition of tetrakis(triphenyl-Phosphine)palladium (0) (0.1 g: 0.09 mmole). After heating under reflux condition for 6 hours under argon atmosphere, the reaction mixture was cooled to room temperature, and admixed with ethyl acetate and water, followed by separation. The organic layer was washed with water and saturated brine successively, dried over anhydrous sodium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography to give the subject compound (0.35 g).

reactant | sodium carbonate | 1.5 mmole, 0.31 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(2-bromophenyl)-3-methylpyrazine-2-carboxamide | 1.4 mmole, 0.4 g | BrC1=C(C=CC=C1)NC(=O)C1=NC=CN=C1C | C12H10BrN3O
reactant | 4-trifluoromethoxyphenyl boric acid | 1.5 mmole, 0.31 g | FC(OC1=CC=C(C=C1)OB(O)O)(F)F | C7H6BF3O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4′-trifluoromethoxybiphenyl-2-yl)-3-methyl-pyrazine-2-carboxamide | 0.35 g, Yield: 68% | FC(OC1=CC=C(C=C1)C1=C(C=CC=C1)NC(=O)C1=NC=CN=C1C)(F)F | C19H14F3N3O2
